US07157447B2
2-(Aminomethyl)-5-fluoro-N-methylbenzenesulfonamide hydrochloride.
To a solution of intermediate 51, 2-azidomethyl-5-fluoro-N-methyl-benzenesulfonamide, (560 mg, 2.3 mmol) in ethanol (10 mL) was added 6N HCl (1 mL) and 10% Pd—C (100 mg) and the mixture hydrogenated with 1 atm of H2 for 14 hrs. The catalyst was removed by filtration through Celite and the filtrate concentrated in vacuo to provide 630 mg (Yield>100%) of the title compound. 1H NMR (500 MHz, DMSO-D6) δ ppm: 4.36 (2H, d, J=5.2 Hz) 7.63–7.70 (2H, m) 7.77–7.83 (1H, m) 8.11 (1H, d, J=4.9 Hz) 8.41 (3H, s); LC/MS m/z 219 (M+H).

reactant | 2-azidomethyl-5-fluoro-N-methyl-benzenesulfonamide | 2.3 mmol, 560 mg | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)S(=O)(=O)NC | C8H9FN4O2S
reactant | HCl | 6N, 1 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 2-(Aminomethyl)-5-fluoro-N-methylbenzenesulfonamide hydrochloride | 630 mg, Yield>100% | Cl.NCC1=C(C=C(C=C1)F)S(=O)(=O)NC | InChI=1S/C8H11FN2O2S.ClH/c1-11-14(12,13)8-4-7(9)3-2-6(8)5-10;/h2-4,11H,5,10H2,1H3;1H
